US05639778
1-(7-Dipropylamino-6,7,8,9-tetrahydro-3H-benzo[e]indol-1-yl)propan-1-one (10j, Chart 2)
A mixture of dipropyl-(6,7,8,9-tetrahydro-3H-benzo[e]indol-7-yl)amine (70 mg, 0.26 mmol) and phosphorous oxychloride (48 μL, 80 mg, 0.52 mmol) in N,N-dimethyl propionamide (250 μL) was heated at 80° C. for 6 hours. After cooling 5M sodium hydroxide was added and the mixture was heated again for 0.5 hour. After cooling, the mixture was extracted 3 times with ethyl acetate, dried (magnesium sulfate), filtered and evaporated to yield a residue to which 99% ethanol was added. This was then evaporated to dryness. A few repetions of the last procedure yielded a residue of 86 mg (100%) of the product.:

reactant | dipropyl-(6,7,8,9-tetrahydro-3H-benzo[e]indol-7-yl)amine | 0.26 mmol, 70 mg | C(CC)N(C1CC2=C(C=3C=CNC3C=C2)CC1)CCC | C18H26N2
reactant | phosphorous oxychloride | 0.52 mmol, 48 μL, 80 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 5M | [OH-].[Na+]
reactant | N,N-dimethyl propionamide | 250 μL | CN(C(CC)=O)C | C5H11NO
product | 1-(7-Dipropylamino-6,7,8,9-tetrahydro-3H-benzo[e]indol-1-yl)propan-1-one | 86 mg, 100% | C(CC)N(C1CC2=C(C=3C(=CNC3C=C2)C(CC)=O)CC1)CCC | C21H30N2O
